US07297704B2
6-Fluoro-1,3,4,9-tetrahydro-2H-carbazol-2-one
The title compound was prepared according to the procedure of Example 43 step C by replacing the 1,3,4,9-tetrahydrospiro[carbazole-2,2′-[1,3]dioxolane] with 6-fluoro-1,3,4,9-tetrahydrospiro[carbazole-2,2′-[1,3]dioxolane] (6.058 g, 0.0245 mol). The crude product was dissolved in warm methanol, treated with charcoal, filtered over Celite and the filtrate evaporated to dryness. The residue was slurried in a small amount of methanol, the off white solid collected and dried to provide the title compound (1.297 g), m.p. 165-167° C. MS (ES): [M−H]− @m/z 202.0.

reactant | 6-fluoro-1,3,4,9-tetrahydrospiro[carbazole-2,2′-[1,3]dioxolane] | 0.0245 mol, 6.058 g | FC=1C=C2C=3CCC4(OCCO4)CC3NC2=CC1 | C14H14FNO2
reactant | charcoal | C | CH4
solvent | methanol | CO | CH4O
product | 6-Fluoro-1,3,4,9-tetrahydro-2H-carbazol-2-one | 1.297 g | FC=1C=C2C=3CCC(CC3NC2=CC1)=O | C12H10FNO
